US04443477
4-[2-(4-chlorobenzenesulphonamido)-ethyl]-cinnamic acid;
ethyl 4-[2-(1-naphthylsulphonamido)-ethyl]-cinnamate from ethyl 4-(2-aminoethyl)-cinnamate hydrochloride and 1-napthylsulphochloride; m.p. 85°-86° C. (recrystallized from ethanol); yield 88% of theory, and therefrom by hydrolysis

reactant | ethyl 4-[2-(1-naphthylsulphonamido)-ethyl]-cinnamate | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NCCC1=CC=C(C=CC(=O)OCC)C=C1 | C23H23NO4S
reactant | ethyl 4-(2-aminoethyl)-cinnamate hydrochloride | Cl.NCCC1=CC=C(C=CC(=O)OCC)C=C1
reactant | 1-napthylsulphochloride | C1(=CC=CC2=CC=CC=C12)OS(=O)(=O)Cl | C10H7ClO3S
product | 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-cinnamic acid | yield 88% | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=CC(=O)O)C=C1 | C17H16ClNO4S
